US07220760B2
Acetic anhydride (18.3 g) was added to a solution of cyclopropyl-quinolin-4-yl-amine (6.6 g) in pyridine (50 ml) and the mixture was heated under reflux over night. After cooling, the solvent was removed under reduce pressure and then the mixture was washed with dichloromethane (200 ml) and an aqueous solution of sodium carbonate (200 ml). The organic layer was separated and dried over sodium sulfate. The solvent was removed under reduce pressure and the crude compound was purified by flash chromatography on silicagel using dichloromethane/methanol (98/2) as eluent to give cyclopropyl-quinolin-4-yl-acetamide (8 g, 98.7% yield).

reactant | Acetic anhydride | 18.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | cyclopropyl-quinolin-4-yl-amine | 6.6 g | C1(CC1)NC1=CC=NC2=CC=CC=C12 | C12H12N2
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | cyclopropyl-quinolin-4-yl-acetamide | 8 g, 98.7% yield | C1(CC1)C(C(=O)N)C1=CC=NC2=CC=CC=C12 | C14H14N2O
